US08859569B2
1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide
Under an argon atmosphere, 994 mg (purity 81%, approx. 3.01 mmol) of 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile was dissolved in 15 ml of absolute methanol. 209 mg (3.72 mmol) of sodium methylate was added and it was stirred for 1 h at RT. Then a further 31 mg (0.56 mmol) of sodium methylate was added and it was stirred for 15 min at RT. 871 mg (14.50 mmol) of acetic acid and 489 mg (4.46 mmol) of ammonium chloride were added and the mixture was stirred for 45 min at 45° C. The reaction mixture was concentrated by evaporation, the residue was mixed with 1N sodium hydroxide solution, the precipitate was filtered with suction and dried under high vacuum. 918 mg (purity 91%, 97% of theor.) of the target compound was obtained.

reactant | 1-(2-fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carbonitrile | approx. 3.01 mmol, 994 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C#N)C=CC=C1 | C14H10FN5
reactant | sodium methylate | 3.72 mmol, 209 mg | C[O-].[Na+]
reactant | sodium methylate | 0.56 mmol, 31 mg | C[O-].[Na+]
reactant | acetic acid | 14.50 mmol, 871 mg | C(C)(=O)O | C2H4O2
reactant | ammonium chloride | 4.46 mmol, 489 mg | [Cl-].[NH4+]
solvent | methanol | 15 ml | CO | CH4O
product | 1-(2-Fluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidamide | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(N)=N)C=CC=C1 | C14H13FN6
